US05047411
The mixture of 2-(N-ethylformamido)-6-methylbenzoxazole (7.6 g), N-bromosuccinimide (6.6 g) and benzoyl perioxide (0.2 g) in benzene (150 ml) was refluxed for 70 minutes and the mixture was cooled to ambient temperature. To the reaction mixture was added ethyl acetate, and the mixture was washed with water and dried over magnesium sulfate. The solvent was evaporated and the residue was triturated in a mixture of diisopropyl ether and n-hexane to give 6-bromomethyl-2-(N-ethylformamido)benzoxazole (6.18 g).

reactant | 2-(N-ethylformamido)-6-methylbenzoxazole | 7.6 g | C(C)N(C=O)C=1OC2=C(N1)C=CC(=C2)C | C11H12N2O2
reactant | N-bromosuccinimide | 6.6 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | 6-bromomethyl-2-(N-ethylformamido)benzoxazole | 6.18 g | BrCC1=CC2=C(N=C(O2)N(C=O)CC)C=C1 | C11H11BrN2O2
